US05840751
5,6-Dihydro-4-hydroxy-6-(4-methoxyphenyl)-2H-pyran-2-one, (±)
The title compound was prepared as described in General Method 1 using 5 mL of methyl acetoacetate, 2.0 g of NaH 60% dispersion in oil, 25 mL of 2.0M n-butyl lithium in hexane, 7.0 mL of 4-methoxybenzaldehyde and 150 mL of tetrahydrofuran. After addition of the aldehyde, the reaction was stirred for 15 minutes at 0° C. then allowed to warm to room temperature overnight. The crude product was triturated from diethyl ether to afford a solid (m.p.159°-162° C. (dec.)). 1H NMR (CDCl3) δ 2.91 (dd, 2 H), 3.57 (dd, 2 H), 3.83 (s, 3 H), 5.66 (dd, 1 H), 6.93-6.97 (m, 2 H), 7.30-7.34 (m, 2 H).

reactant | methyl acetoacetate | 5 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 2.0 g | [H-].[Na+]
reactant | n-butyl lithium | 2.0M, 25 mL | C(CCC)[Li]
reactant | 4-methoxybenzaldehyde | 7.0 mL | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 5,6-Dihydro-4-hydroxy-6-(4-methoxyphenyl)-2H-pyran-2-one | OC1=CC(OC(C1)C1=CC=C(C=C1)OC)=O | C12H12O4
